US07214673B2
2-tert-Butyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride
Add 5-tert-butyl-2-(2-nitro-phenylamino)-thiophene-3-carbonitrile (21.2 g, 70 mmol) to a solution of tin(II)chloride dihydrate (46.1 g, 209 mmol) in conc. HCl (200 mL) and ethanol (600 mL). Reflux the mixture for 2 hours. Concentrate the solution to 200 mL and add to water (1 L). Filter and wash with water then hexanes to obtain the title compound as an orange powder (19.4 g): 1H NMR (DMSO-d6) δ 1.27 (s, 9H), 6.86 (d, 1H), 6.89 (s, 1H), 6.95 (d, 1H), 7.03 (t, 1H), 7.11 (t, 1H), 8.69 (s, 1H) 9.11 (s, 1), 9.52 (s, 1H), 10.88 (s, 1H); MS (APCI) m/z (rel intensity) 272 (100).

reactant | 5-tert-butyl-2-(2-nitro-phenylamino)-thiophene-3-carbonitrile | 70 mmol, 21.2 g | C(C)(C)(C)C1=CC(=C(S1)NC1=C(C=CC=C1)[N+](=O)[O-])C#N | C15H15N3O2S
reactant | tin(II)chloride dihydrate | 209 mmol, 46.1 g | O.O.[Sn](Cl)Cl
solvent | HCl | 200 mL | Cl | ClH
solvent | ethanol | 600 mL | C(C)O | C2H6O
product | 2-tert-Butyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 19.4 g | Cl.C(C)(C)(C)C1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | InChI=1S/C15H17N3S.ClH/c1-15(2,3)12-8-9-13(16)17-10-6-4-5-7-11(10)18-14(9)19-12;/h4-8,18H,1-3H3,(H2,16,17);1H
